US07402684B2
(R)-2-[4-(4-Trifluoromethyl-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 2 in Example 91 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.5 mmol) and 4-trifluoromethyl-benzyl bromide (145 mg, 0.6 mmol) to afford title product (135 mg, 60% yield); LCMS; 100% APCI+, Calcd: +451.49. Found m/z: 452.3 (M+1). 1H NMR (400 MHz, CDCl3); δ 1.47 (s, 9H), 1.80-2.09 (m, 4H), 3.28-3.46 (m, 2H), 3.69-3.91 (m, 1H), 4.02-4.18 (m 2H), 5.07 (s, 2H), 6.87 (s, 4H), 7.53 (d, J=8.4 Hz, 2H), 7.63 (d, J=8.0 Hz, 2H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 4-trifluoromethyl-benzyl bromide | 0.6 mmol, 145 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | (R)-2-[4-(4-Trifluoromethyl-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 135 mg, 60% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C24H28F3NO4
